US05491144
a) 4,5-Bis(trimethylsilyloxy)cyclohexa-1,4-diene-1,2-dicarboxylic acid dimethyl ester
Under argon, a solution of 7.1 g (50 mmol) of acetylenedicarboxylic acid dimethyl ester in 30 ml of toluene is added dropwise to 12.5 g (50 mmol) of 2,3-bis(trimethylsilyloxy)-1,3-butadiene (95%) and then boiled under reflux for 19 hours. The reaction mixture is cooled, the solvent is evaporated off and the residue is distilled under a high vacuum (0.1 mbar,124°-127°), yielding the title compound in the form of a yellow, highly viscous oil, 1H-NMR (CDCl3): δ=0.18 (s, 18H), 3.09 (s, 4H), 3.78 (s, 6H).

reactant | acetylenedicarboxylic acid dimethyl ester | 50 mmol, 7.1 g | COC(=O)C#CC(=O)OC | C6H6O4
reactant | 2,3-bis(trimethylsilyloxy)-1,3-butadiene | 50 mmol, 12.5 g | C[Si](OC(=C)C(=C)O[Si](C)(C)C)(C)C | C10H22O2Si2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-Bis(trimethylsilyloxy)cyclohexa-1,4-diene-1,2-dicarboxylic acid dimethyl ester | COC(=O)C1=C(CC(=C(C1)O[Si](C)(C)C)O[Si](C)(C)C)C(=O)OC | C16H28O6Si2
